US07589095B2
Iodine (0.335 g, 1.32 mmol), diiodomethane (4.3 mL, 53.0 mmol) and 3-bromostyrene (5 g, 26.4 mmol) were added successively to a suspension of copper (7.5 g, 118.8 mmol) in toluene (50 mL). The mixture was refluxed for 140 h, then filtered and concentrated in vacuo. The residue was distilled under reduced pressure to afford 3-bromo-1-cyclopropylbenzene (0.55 g, 10%) as a colorless oil.

reactant | Iodine | 1.32 mmol, 0.335 g | II | I2
reactant | diiodomethane | 53.0 mmol, 4.3 mL | ICI | CH2I2
reactant | 3-bromostyrene | 26.4 mmol, 5 g | BrC=1C=C(C=C)C=CC1 | C8H7Br
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper | 118.8 mmol, 7.5 g | [Cu] | Cu
product | 3-bromo-1-cyclopropylbenzene | 0.55 g, 10% | BrC=1C=C(C=CC1)C1CC1 | C9H9Br
